2167-03-05 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2167-3-4**] 08:55 AM
 NON-INVASIVE VENTILATION - STOP [**2167-3-4**] 11:30 AM
 PICC LINE - START [**2167-3-4**] 12:00 PM
 CHEST PAIN - At [**2167-3-4**] 05:13 PM
   Flash Pulmonary edema again yest PM, responded to lasix, CPAP
   Persistently agigated and disoriented despite resolution of hypoxia,
   given IV haldol 0.5mg x 2 with good effect
   Able to transition to high flow neb with stable O2 sats
   THIS AM:
   says breathing is fine, not labored, but still appears in mild
   respiratory distress
   A+O x 3
   Allergies:
   Morphine
   Rash;
   Betalactams
   Neutropenia;
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2167-3-4**] 08:00 PM
   Aztreonam - [**2167-3-5**] 06:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-3-5**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.5
   HR: 80 (67 - 124) bpm
   BP: 116/43(62) {94/40(53) - 149/80(98)} mmHg
   RR: 20 (17 - 39) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.7 kg (admission): 87.7 kg
             Total In:
                                                                    492 mL
                                                                    229 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    442 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    490 mL
   Urine:
                                                                  1,110 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -618 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 550 (526 - 550) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 100%
   ABG: 7.45/40/143/25/4
   Ve: 15.2 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Crackles
   : inspiratory b/l [**2-15**] way up, Wheezes : expiratory wheezes anteriorly
   bilaterally), tachypneic
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, year, month, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   27 K/uL
   6.5 g/dL
   95 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   26 mg/dL
   108 mEq/L
   144 mEq/L
   20.2 %
   3.0 K/uL
        [image002.jpg]
                             [**2167-3-4**]  09:54 AM
                             [**2167-3-4**]  10:06 AM
                             [**2167-3-4**]  11:17 AM
                             [**2167-3-4**]  10:41 PM
                             [**2167-3-5**]  12:02 AM
                             [**2167-3-5**]  06:12 AM
   WBC
   5.5
   3.0
   Hct
   23.5
   20.2
   Plt
   46
   27
   Cr
   1.5
   1.7
   1.6
   TropT
   0.03
   0.03
   TCO2
   29
   28
   29
   Glucose
   163
   172
   195
   95
   Other labs: PT / PTT / INR:14.6/22.0/1.3, CK / CKMB /
   Troponin-T:23/2/0.03, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:32.0
   %, Mono:15.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Ca++:7.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Microbiology: [**3-5**] BCx PND
   [**2-14**] BCx PND
   [**3-4**] UCx PND
   [**3-3**] UCx: (final) negative
   Assessment and Plan
   A/P: 68 yo F with CLL, HTN, CAD, chronic stable diastolic CHF (EF 55
   %), hyperlipdemia, hypothyroid, CKD (baseline creatinine ), DM2,
   anemia, a-fib, and gout admitted with AMS, renal failure, and [**Hospital 182**]
   transferred to ICU w/ HTN, hypoxia, tachycardia.
   .
   #) SOB/HYPOXIA: Most likely flash pulmonary edema in setting Afib w/
   RVR and hypertensive urgency. Repeat CXR this AM seems to support
   volume overload. No e/o underlying lower tract Oat had occasional O2
   requirement this hospitalization w/ significant SOB [**3-2**] overnight in
   setting of transfusions. Less likely PE (low plt, slowly increasing O2
   requirement). TRALI considered but pt improved quickly with diuresis
   and nebulizer treatments. CXR c/w volume overload. Pt has h/o stridor
   with tracheal compression from nodes. No e/o stridor on exam. EKG
   unchanged from baseline though pt tachycardic. Echo w/ nml EF but some
   e/o LVH and mild diastolic dysfunction.
   - cont CPAP, reassess q1H
   - cont nebs ATC
   - diuresis with goal <1L today
   - cycle CE; low-dose aspirin as pt is thrombocytopenic, no statin
   - nitro paste for now
   - rate control w/ dilt PO 60 QID, IV prn
   .
   #) Atrial Fibrillation: Likely triggered by hypoxia in setting of flash
   edema ([**2-14**] HTN). On rate control as she is not a candidate for
   anticoagulation secondary to chronic low platelets.
   Continue carvedilol 50mg [**Hospital1 7**], increase dilt as tolerated.
   .
   #) Hypertension: Patient has history of malignant hypertension in prior
   admissions with symptoms of headache and epigastric/left sided chest
   pain. Patient is now on a fairly extensive med regimin including
   lisinopril, BB, nitrate, clonidine patch,diltiazem.
   - cont all meds , dilt dose increased to 60 QID
   .
   #) AMS. Improving, was likely multifactorial. Patient p/w known UTI and
   recent neutropenia, and was recently started on oxycontin for pain. She
   was also on gabapentin while in acute on chronic renal failure. Review
   of her meds show multiple sedating agents. Head CT was negative.
   Patient now alert and oriented.
   - hold oxycontin, lorazepam, diphenhydramine, gabapentin
   - pan-culture; cultures so far NGTD
   - antibiotics as indicated; currently on bactrim (UTI) and flagyl
   (mouth flora)
   - cont to monitor mental status, white count, fever curve
   .
   #) UTI. Patient was being treated for reported "pan-sensitive" E. coli
   with nitrofurantoin. Placed on IV ciprofloxacin for coverage, repeat
   urine culture negative. Stopping ciprofloxacin for now. Pt does have
   h/o ESBL. Per rehab, she did receive imipenem. Bactrim for 10-day
   course given sensitivities.
   .
   #) CAD: Continue ASA, beta-blocker, ACE-inhibitor. Cardiac enzymes are
   negative on admisison, recycled [**3-2**]. ECG w/o new ST-T changes, pat w/o
   CP currently.
   - cycle CE x2
   .
   #) fever: sources include pulmonary (CXR negative for consolidation,
   decreased O2 sat in setting of pul edema), urine (has h/o ESBL, u/a not
   impressive at this time), blood (negative cultures to date), previous
   biopsy sites (bilat neck u/w negative for abscess though +fluctuance on
   exam), sacral wound, tooth decay.
   - monitor cultures; urine + for E Coli
   - broaden antibiotic coverage -- pt has lactam allergy; was on
   aztreonam for gram negatives, vanco for gram positives, and clindamycin
   for anaerobes (mouth flora)--> now narrowed to flaygl (stomach upset
   with clinda) for mouth flora and bactrim for UTI
   .
   #) ARF: back to baseline.
   - monitor UOP, Crea
   - dose meds renally
   .
   #) Pancytopenia. Patient has CLL and chronically has low counts. Her
   white count is very low compared to her usual baseline. ? marrow
   infiltration vs. suppression from sepsis vs. medication effect. Recent
   bone marrow [**12-20**] w/o clear explanation to account for pancytopenia.
   Retic count inappropriately low. Smear not very impressive but confirms
   pancytopenia, also some larger RBCs. Pt did receive imipenem at rehab
   and has history of leukopenia w/ beta-lactam antibiotics, which is most
   likely explanation.
   - continue to monitor, trend
   - hold ALL beta-lactam antibiotics
   - neutropenic precautions
   - transfuse if hct < 21, plt <10k or actively bleeding
   - consider bone marrow biopsy in the near future
   .
   #) CLL. Further management per Dr. [**Last Name (STitle) 183**].
   .
   #) Thrush/dental pain: Continue nystatin swish, peridex.
   - f/u panorex x-ray
   - dental consult appreciated. Pt will need extraction in future when
   medicall stable
   - pain control
   .
   #) Diabetes. QID finger sticks, continue sliding scale, diabetic diet.
   .
   #) Hypothyroidism. Continue levothyroxine 75mcg daily.
   .
   #) F/E/N. Cardiac/diabetic diet. Lyte repletion PRN.
   .
   #) Access. L PICC (changed today)
   .
   #) PPx. Continue pneumoboots, avoid heparin given thrombocytopenia,
   bowel regimen.
   .
   #) Communication. HCP son [**Name (NI) 184**] [**Telephone/Fax (1) 185**]; [**Name2 (NI) 186**] [**Name (NI) 187**]
   [**Telephone/Fax (1) 188**]
   #) Code Status. Full Code.
   #) Dispo.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2167-3-4**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2167-03-05 10:17:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2167-3-4**] 08:55 AM
 NON-INVASIVE VENTILATION - STOP [**2167-3-4**] 11:30 AM
 PICC LINE - START [**2167-3-4**] 12:00 PM
 CHEST PAIN - At [**2167-3-4**] 05:13 PM
   BiPAP overnight.
   In the late evening, became agitated and more tachypneic, with apparent
   acute pulmonary edema --> Lasix, CPAP --> improved respiratory status
   but still agitated --> Haldol.
   This morning, she is now oriented and not agitated.
   History obtained from Patient
   Allergies:
   Morphine
   Rash;
   Betalactams
   Neutropenia;
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2167-3-4**] 08:00 PM
   Aztreonam - [**2167-3-5**] 06:11 AM
   Infusions:
   Other ICU medications:
   Other medications:
   as per [**Month (only) **] (reviewed at rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-3-5**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 75 (67 - 124) bpm
   BP: 111/51(65) {94/40(53) - 149/80(98)} mmHg
   RR: 21 (20 - 39) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87.7 kg (admission): 87.7 kg
             Total In:
                                                                    492 mL
                                                                    297 mL
   PO:
                                                                     50 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    442 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    950 mL
   Urine:
                                                                  1,110 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -618 mL
                                                                   -653 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 98%
   ABG: 7.45/40/143/25/4
   Ve: 15.2 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: Overweight / Obese, moderately distressed
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), Heart sounds are distant.
   Neck veins are distended.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : half up)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, month, year, [**Hospital1 19**], Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   6.5 g/dL
   27 K/uL
   95 mg/dL
   1.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   26 mg/dL
   108 mEq/L
   144 mEq/L
   20.2 %
   3.0 K/uL
        [image002.jpg]
                             [**2167-3-4**]  09:54 AM
                             [**2167-3-4**]  10:06 AM
                             [**2167-3-4**]  11:17 AM
                             [**2167-3-4**]  10:41 PM
                             [**2167-3-5**]  12:02 AM
                             [**2167-3-5**]  06:12 AM
   WBC
   dws
   5.5
   3.0
   Hct
   23.5
   20.2
   Plt
   46
   27
   Cr
   1.5
   1.7
   1.6
   TropT
   0.03
   0.03
   TCO2
   29
   28
   29
   Glucose
   163
   172
   195
   95
   Other labs: PT / PTT / INR:14.6/22.0/1.3, CK / CKMB /
   Troponin-T:23/2/0.03, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:32.0
   %, Mono:15.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Ca++:7.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR with increased alveolar opacities, probably pulmonary
   edema but somewhat more confluent particularly RUL.  Heart size may
   have increased compared with substantially earlier in the stay although
   there are differences in technique.
   Microbiology: Recent cx negative or NGSF, including an interval
   negative UCx since the last (+) on [**2-13**]//08.
   ECG: AFib with RVR; diffuse but nonspecific STTW changes
   Assessment and Plan
   68-year-old woman with acute, intermittent respiratory distress with
   diffuse pulmonary infiltrates.  Clinically, this appears to be acute
   cardiogenic pulmonary edema although she is at risk for pulmonary
   infections including atypical pathogens.
 RESPIRATORY DISTRESS
   As above, this is most likely to be acute cardiogenic pulmonary edema,
   although we need to consider other etiologies.  Today, we will
   1) repeat echocardiogram to ensure no major changes in LVEF or
   pericardial disease
   2) rate control Atrial fibrillation today --> now in in sinus.  If she
   needs additional rate control today, would try esmolol
   3) Stop inhaled adrenergics
   4) consult heart failure service today
   5) although infection seems an unlikely etiology at present, we will
   continue current ABX (vanco, aztreonam, flagyl (?dental issue)) for
   possible nosocomial infection.  We will observe closely to see if there
   is a temporal relationship between aztreonam dosing and episodes of
   acute respiratory distress, since anaphylaxis may present like this.
 ATRIAL FIBRILLATION (AFIB)
   - as above
 PULMONARY EDEMA
   - as above
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   - will need investigation of secondary causes of hypertension if this
   has not previously been done
   - unless we cannot control her BP, this does not need to be done in the
   acute setting
 DIABETES MELLITUS (DM), TYPE II
   - subcutaneous insulin
 URINARY TRACT INFECTION (UTI)
   - her prior culture appears to have cleared
 PANCYTOPENIA
   - likely related to CLL, although certainly medication effects could be
   playing a part
   - transfuse today
   - follow platelets
 HYPOTHYROIDISM
   - continue repletion
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - antiplatelets
   - BP control as above
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   - cr stable
   - may need further investigation
   ICU Care
   Nutrition: NPO for now.
   Lines:
   PICC Line - [**2167-3-4**] 12:00 PM
   Prophylaxis:
   DVT: Boots. No heparin due to thrombocytopenia
   Stress ulcer: PPI
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2167-03-06 12:31:00 Physician Attending Progress Note
Chief Complaint: acute diastolic CHF and respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2167-3-5**] 12:16 PM
   Cardiology consult.
   Pt reports dyspnea improved.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Morphine
   Rash;
   Betalactams
   Neutropenia;
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2167-3-4**] 08:00 PM
   Aztreonam - [**2167-3-6**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2167-3-5**] 06:56 PM
   Other medications:
   Bactrim, levothyroxine, insulin, clonidine, PPI, carvedilol, celexa,
   cipro, nitropaste, fluticasone, diltiazem, statin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2167-3-6**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 64 (63 - 81) bpm
   BP: 120/53(70) {103/45(63) - 147/67(86)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 88.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,375 mL
                                                                    810 mL
   PO:
                                                                    460 mL
                                                                    340 mL
   TF:
   IVF:
                                                                    540 mL
                                                                    470 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,290 mL
                                                                  1,950 mL
   Urine:
                                                                  2,290 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -915 mL
                                                                 -1,140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, Looks more comfortable.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Lungs with crackles.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Skin:  warm
   Unilateral hand edema
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   21 K/uL
   117 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.5 mEq/L
   27 mg/dL
   102 mEq/L
   142 mEq/L
   25.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2167-3-4**]  09:54 AM
                             [**2167-3-4**]  10:06 AM
                             [**2167-3-4**]  11:17 AM
                             [**2167-3-4**]  10:41 PM
                             [**2167-3-5**]  12:02 AM
                             [**2167-3-5**]  06:12 AM
                             [**2167-3-5**]  06:36 PM
                             [**2167-3-6**]  01:55 AM
   WBC
   5.5
   3.0
   4.8
   4.0
   Hct
   23.5
   20.2
   25.6
   25.5
   Plt
   46
   27
   16
   21
   Cr
   1.5
   1.7
   1.6
   1.6
   1.5
   TropT
   0.03
   0.03
   TCO2
   29
   28
   29
   Glucose
   163
   172
   195
   95
   104
   117
   Other labs: PT / PTT / INR:14.6/22.0/1.3, CK / CKMB /
   Troponin-T:23/2/0.03, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:32.0
   %, Mono:15.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Microbiology: UCx with GNR
   Assessment and Plan
   68-year-old woman with acute-on-chronic, decompensated diastolic heart
   failure.  She has improved markedly with better rate control of her
   atrial fibrillation, which had previously had RVR.
 HEART FAILURE, ACUTE-ON-CHRONIC
   - appreciate cardiology's help
   - diuresis today
   - BP control today
 ATRIAL FIBRILLATION (AFIB)
   - rate control is adequate at present
   - no anticoagulation given thrombocytopenia
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   - BP control today
   - will need secondary cause evaluation
 DIABETES MELLITUS (DM), TYPE II
   - subcutaneous insulin
 URINARY TRACT INFECTION (UTI)
   - follow cultures, given prior resistance
   - based on resistance pattern, will d/c Bactrim and aztreonam; start
   nitrofurantoin
 PANCYTOPENIA
   - secondary to CLL
   - discuss transfusion criteria with oncology
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   - continue current rx
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   - no acute rx
   - avoid nephrotoxins
 ARM EDEMA
   - Doppler
   ICU Care
   Lines:
   PICC Line - [**2167-3-4**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 min
   Patient is critically ill

2167-03-07 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Remained in SR with good rate control, weaned down on supplemental O2
   LENIs performed due to concern for RUE>LUE, no evidence of DVT
   Urine grew out E. coli again so started on nitrofurantoin per
   sensitivities
   Allergies:
   Morphine
   Rash;
   Betalactams
   Neutropenia;
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2167-3-4**] 08:00 PM
   Aztreonam - [**2167-3-6**] 06:00 AM
   Metronidazole - [**2167-3-6**] 11:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-3-7**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 78 (61 - 78) bpm
   BP: 120/50(67) {90/40(56) - 144/72(78)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 88.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,720 mL
                                                                    139 mL
   PO:
                                                                  1,120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    600 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                    600 mL
   Urine:
                                                                  3,790 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,070 mL
                                                                   -461 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), RRR, no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly and at bases), decreased wheezing appreciated
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14 K/uL
   8.1 g/dL
   120 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.4 mEq/L
   26 mg/dL
   103 mEq/L
   140 mEq/L
   23.3 %
   2.5 K/uL
        [image002.jpg]
                             [**2167-3-4**]  09:54 AM
                             [**2167-3-4**]  10:06 AM
                             [**2167-3-4**]  11:17 AM
                             [**2167-3-4**]  10:41 PM
                             [**2167-3-5**]  12:02 AM
                             [**2167-3-5**]  06:12 AM
                             [**2167-3-5**]  06:36 PM
                             [**2167-3-6**]  01:55 AM
                             [**2167-3-6**]  04:52 PM
                             [**2167-3-7**]  02:48 AM
   WBC
   5.5
   3.0
   4.8
   4.0
   2.5
   Hct
   23.5
   20.2
   25.6
   25.5
   23.3
   Plt
   46
   27
   16
   21
   14
   Cr
   1.5
   1.7
   1.6
   1.6
   1.5
   1.3
   1.3
   TropT
   0.03
   0.03
   TCO2
   29
   28
   29
   Glucose
   163
   172
   195
   95
   104
   117
   181
   120
   Other labs: PT / PTT / INR:14.3/23.7/1.2, CK / CKMB /
   Troponin-T:23/2/0.03, Differential-Neuts:67.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Ca++:8.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.1 mg/dL
   Imaging: [**3-7**] CXR PND
   [**3-6**] RUE U/S
   IMPRESSION:  No evidence of deep vein thrombosis of the right upper
   extremity.
   [**3-6**] CXR
   Predominantly perihilar
   consolidation in both lungs with a smaller region of abnormality at the
   right base laterally has worsened since [**3-4**], probably unchanged
   since the 21st.  Severe cardiomegaly, mediastinal vascular engorgement
   are other indications of cardiac decompensation.  Left PIC catheter tip
   projects over the junction of brachiocephalic veins.  Small-to-moderate
   right pleural effusion is stable.  No pneumothorax.
   [**3-5**] ECHO
   Overall left ventricular systolic function is normal (LVEF>55%) and
   regional function is normal. Tissue Doppler imaging suggests an
   increased left ventricular filling pressure (PCWP>18mmHg). Transmitral
   Doppler and tissue velocity imaging are consistent with Grade II
   (moderate) LV diastolic dysfunction
   Microbiology: [**3-5**] BCx NGTD
   [**3-4**] BCx: NGTD
   [**3-4**] UCx:ESBL E Coli
   [**3-3**] Ucx: negative
   Assessment and Plan
   1. Pulmonary Edema
   Occurred in setting of afib with RVR. Echo with diastolic dysfunction,
   therefore will not tolerate tachycardia well. Currently in SR with
   improved rate control. Still with pulmonary edema on exam.
   --Continue diuresis goal 1-2L negative
   2. Atrial fibrillation
   Unable to anticoagulate secondary to chronic thrombocytopenia.
   Currently in SR with HR in 70
s. CHF service recommendations
   appreciated.
   --Continue diltiazem and carvedilol
   --Start amiodarone if returns to afib
   3. CHF, diastolic, chronic
   --Continue carvelilol, lisinopri, statin. Continue diuresis as above.
   4. HTN
   Patient has h/o malignant hypertension
   --Continue lisinopril, carvedilol, clonidine, and diltiazem. Increase
   lisinopril to 40 today.
   --Consider outpatient workup for secondary causees of hypertension such
   as renal artery stenosis
   5. Altered mental status
   Clear today. Likely multifactorial with hypoxia, infection,
   ?hypertension. Has had negative head CT. Follow, avoid sedating
   medications.
   6. Fever and urinary tract infection
   Currently afebrile without leukocytosis. Patient with known dental
   abscess for which she is being treated with flagy (had GI upset with
   clindamycin). CXR c/w edema no focal infiltrate strongly suggestive of
   pna
   --Will treat with nitrofurantoin x14 day course given foley
   --Discontinue vancomycin, aztreonam, cipro in absence of other
   infectious source
   --Continue flagyl for now
   7. CAD
   Continue ASA, beta blocker, statin, nitrates. No evidence of active
   ischemia, cardiac enzymes flat.
   8. Pancytopenia
   Patient has CLL and chronically has low counts. Recent bone marrow
   [**12-20**] w/o clear explanation to account for pancytopenia. Per Onc,
   suspect CLL-assosciated ITP. Also, known history of leukopenia w/
   beta-lactam antibiotics
   --Follow ANC
   -- transfuse if hct < 21 ([**Male First Name (un) 194**] any units of blood with lasix), plt
   <10k or actively bleeding
   9. CLL.
   -- Further management per Dr. [**Last Name (STitle) 183**]
   10. Thrush/dental pain:
   -- Continue nystatin swish
   11. Diabetes.
   --QID finger sticks, continue sliding scale, diabetic diet
   12. Hypothyroidism.
   - -Continue levothyroxine 75mcg daily.
   ICU Care
   Nutrition:
   Comments: diabetic HH diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2167-3-4**] 12:00 PM
   Prophylaxis:
   DVT: Boots(no heparin [**2-14**] thrombocytopenia)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2167-03-07 10:56:00 Physician Attending Progress Note
Chief Complaint: 68 yr female with many medical problems including CLL,
   diabetes, CHF, CAD, afib, CRF here for Afib with RVR worsening resp
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Now in sinus, good rate control
   BP bettter controlled
   Started on Ab for UTI
   24 Hour Events:
 CALLED OUT
   > LENI in RUE - negative
   Allergies:
   Morphine
   Rash;
   Betalactams
   Neutropenia;
   Iodine; Iodine Containing
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2167-3-4**] 08:00 PM
   Aztreonam - [**2167-3-6**] 06:00 AM
   Metronidazole - [**2167-3-7**] 08:08 AM
   Ciprofloxacin - [**2167-3-7**] 10:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   synthroid, isosorbide, RISS, carbetalol, panttoprazole, colace,
   atrovent neb, citalopram, fluticasone, lisinopril, diltiazem, lipitor,
   macrobid, lasix, KCL 40 meq
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-3-7**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 68 (61 - 78) bpm
   BP: 129/47(68) {90/40(56) - 129/72(77)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 88.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,720 mL
                                                                    516 mL
   PO:
                                                                  1,120 mL
                                                                    410 mL
   TF:
   IVF:
                                                                    600 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                    950 mL
   Urine:
                                                                  3,790 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,070 mL
                                                                   -434 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : Bases, Wheezes :
   Diminished from previous more prominent on R)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   14 K/uL
   120 mg/dL
   1.3 mg/dL
   31 mEq/L
   3.4 mEq/L
   26 mg/dL
   103 mEq/L
   140 mEq/L
   23.3 %
   2.5 K/uL
        [image002.jpg]
                             [**2167-3-4**]  09:54 AM
                             [**2167-3-4**]  10:06 AM
                             [**2167-3-4**]  11:17 AM
                             [**2167-3-4**]  10:41 PM
                             [**2167-3-5**]  12:02 AM
                             [**2167-3-5**]  06:12 AM
                             [**2167-3-5**]  06:36 PM
                             [**2167-3-6**]  01:55 AM
                             [**2167-3-6**]  04:52 PM
                             [**2167-3-7**]  02:48 AM
   WBC
   5.5
   3.0
   4.8
   4.0
   2.5
   Hct
   23.5
   20.2
   25.6
   25.5
   23.3
   Plt
   46
   27
   16
   21
   14
   Cr
   1.5
   1.7
   1.6
   1.6
   1.5
   1.3
   1.3
   TropT
   0.03
   0.03
   TCO2
   29
   28
   29
   Glucose
   163
   172
   195
   95
   104
   117
   181
   120
   Other labs: PT / PTT / INR:14.3/23.7/1.2, CK / CKMB /
   Troponin-T:23/2/0.03, Differential-Neuts:67.0 %, Band:1.0 %, Lymph:18.0
   %, Mono:13.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Ca++:8.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR - less edema
   Microbiology: Urine Culture pos for E Coli resistant to multiple AB
   started Nitrofurantoin
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   in sinus, rate well controlled, holding anticoag
 PULMONARY EDEMA
   improved clinically and by CXR, can tolerate and benefit from more
   diuresis
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   BP well controlled
 DIABETES MELLITUS (DM), TYPE II
   SSRI
 URINARY TRACT INFECTION (UTI)
   Started on Macrobid yesterday for 14 d
 PANCYTOPENIA
   from CLL, speak with Heme, thrombocytopenia unusual in this setting, ?
   HIT vs other drug reaction vs her leukemia vs ITP
 HYPOTHYROIDISM
   on synthroid
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   continue current meds, consult Cards pending
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   back to baseline
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   heart failure service aware
   ICU Care
   Nutrition:
   Comments: Reg DM Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2167-3-4**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes